US08258130B2
A mixture of 3-methyl-1H-pyrrolo[3,2-c]pyridine (1.91 g, 14.47 mmol) and KOtBu (3.25 g, 28.9 mmol) in DMF (65 mL) is purged with N2 and stirred at rt for 2 h. Chloramine in ether (0.15 M, 145 mL) is added and the mixture is stirred for 20 min. The reaction is cooled to 00 C. and a solution of Na2S2O3 (800 mg) in water (130 mL) is added. The mixture is stirred for 10 min at 00 C., and then concentrated in vacuo. The residue is triturated in DCM and filtered. DCM is added to the filtrate, cooled to 0° C. and treated with BOC2O (793 mg, 3.6 mmol). The mixture is concentrated in vacuo, and the residue is purified by silica gel chromatography eluting with 10% MeOH in DCM to afford 3-methyl-pyrrolo [3,2-c]pyridin-1-yl amine (842 mg, 35%). MS: 148 (M+H); 1H NMR (300 MHz, CDCl3): δ 8.85 (s, 1H), 8.36 (d, 1H), 7.32 (d, 1H), 6.95 (s, 1H) 4.77 (s, 2H), 2.37 (s, 3H).

reactant | 3-methyl-1H-pyrrolo[3,2-c]pyridine | 14.47 mmol, 1.91 g | CC1=CNC2=C1C=NC=C2 | C8H8N2
reactant | KOtBu | 28.9 mmol, 3.25 g | CC(C)(C)[O-].[K+]
reactant | BOC2O | 3.6 mmol, 793 mg | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | DMF | 65 mL | CN(C)C=O | C3H7NO
product | 3-methyl-pyrrolo [3,2-c]pyridin-1-yl amine | 842 mg, 35% | CC1=CN(C2=C1C=NC=C2)N | C8H9N3
